US04595762
To a stirred mixture containing 66 g of 5-acetyl-1,2 -dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile and 450 ml of chloroform was added dropwise over a period of about 40 minutes a solution containing 60.8 g of bromine in 50 ml of chloroform. The resulting mixture was stirred at room temperature for about 3 hours and then heated on a steam bath for 30 minutes during which time the red color of the reaction mixture disappeared. The reaction mixture was allowed to stir at room temperature for 1 hour and then filtered using a sintered glass funnel. The filtered product was washed with acetone and dried at 60° C. to yield 97.8 g of 5-(bromoacetyl)-1,2-dihyro-6-methyl-2-oxo-3-pyridinecarbonitrile, m.p. 212°-214° C. with decomposition. A 20 g portion of this product was dissolved in a boiling mixture of 400 ml of methanol and 200 ml of dimethylformamide, the hot solution treated with decolorizing charcoal and filtered and the filtrate concentrated on a rotary evaporator to remove the solvents. The residue was boiled with methanol and the white powdery solid was collected, washed with methanol and dried to yield 16.4 g of 5-(bromoacetyl)-1,2-dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile, m.p. 213°-215° C. with decomposition.

reactant | 5-acetyl-1,2 -dihydro-6-methyl-2-oxo-3-pyridinecarbonitrile | 66 g | C(C)(=O)C=1C=C(C(NC1C)=O)C#N | C9H8N2O2
reactant | bromine | 60.8 g | BrBr | Br2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 450 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(bromoacetyl)-1,2-dihyro-6-methyl-2-oxo-3-pyridinecarbonitrile | 97.8 g | BrCC(=O)C=1C=C(C(NC1C)=O)C#N | C9H7BrN2O2
